2107-02-11 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - upon arrival, tachycardic, tachypneic low saturations on bipap,
   checked abg, low O2 and elevated CO2 despite RR 40s, patient intubated
   - patient self extubated - re-intubated
   - a-line placed, TLC catheter placed into IJ for increase access and to
   monitor CO via fick equation
 EKG - At [**2107-2-10**] 11:30 PM
 NASAL SWAB - At [**2107-2-11**] 12:00 AM
 ARTERIAL LINE - START [**2107-2-11**] 12:17 AM
 INVASIVE VENTILATION - START [**2107-2-11**] 12:20 AM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2107-2-11**] 01:30 AM
 PAN CULTURE - At [**2107-2-11**] 03:30 AM
 MULTI LUMEN - START [**2107-2-11**] 03:32 AM
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Bacitracin
   Unknown;
   Hydrocortisone
   Unknown;
   Escitalopram
   Unknown;
   Neomycin
   Unknown;
   Polymyxin B
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2107-2-11**] 04:00 AM
   Vancomycin - [**2107-2-11**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Morphine Sulfate - 5 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2107-2-10**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-11**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 78 (77 - 125) bpm
   BP: 95/55(69) {89/49(63) - 117/61(80)} mmHg
   RR: 22 (21 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.5 kg (admission): 102.3 kg
   Height: 73 Inch
    CVP: 15 (13 - 22)mmHg
   Total In:
                                                                     25 mL
                                                                  1,468 mL
   PO:
   TF:
   IVF:
                                                                     25 mL
                                                                  1,468 mL
   Blood products:
   Total out:
                                                                     25 mL
                                                                    410 mL
   Urine:
                                                                     25 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,058 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 681 (681 - 681) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.41/40/354/22/1
   Ve: 12.6 L/min
   PaO2 / FiO2: 708
   Physical Examination
   General Appearance: No(t) Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   difficult to assess, ? early diastolic murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   240 K/uL
   9.6 g/dL
   225 mg/dL
   2.4 mg/dL
   22 mEq/L
   4.6 mEq/L
   58 mg/dL
   108 mEq/L
   143 mEq/L
   30.2 %
   14.4 K/uL
        [image002.jpg]
                             [**2107-2-10**]  11:52 PM
                             [**2107-2-11**]  12:03 AM
                             [**2107-2-11**]  01:24 AM
                             [**2107-2-11**]  05:36 AM
                             [**2107-2-11**]  05:46 AM
   WBC
   21.7
   14.4
   Hct
   36.0
   30.2
   Plt
   294
   240
   Cr
   2.4
   2.4
   TropT
   3.41
   2.78
   TCO2
   26
   21
   26
   Glucose
   243
   201
   265
   225
   Other labs: PT / PTT / INR:15.7/ 147.8/1.4, CK / CKMB /
   Troponin-T:1547/45/2.78, ALT / AST:52/230, Alk Phos / T Bili:95/0.5,
   Differential-Neuts:80.4 %, Lymph:15.0 %, Mono:4.2 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.8 g/dL, LDH:732 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR pending: my read - diffuse pulmonary edema, can't rule out
   consolidation, cardiomegaly
   Microbiology: sputum cx pending
   blood cx pending
   Assessment and Plan
   83 y/o M w/ Aortic Stenosis, CHF w/ EF 45% and 3VD s/p CABGx2 and
   multiple stents p/w dyspnea and elevated troponin and probable CHF.
   .
   # CORONARIES: Reportedly NSTEMI by OSH.  ECG here concerning for
   ischemia in major epicardial vessel, ?LIMA to LAD vs. stents of left
   main or circ with intact LIMA.  Apparently echo unchanged from previous
   however.
   - ASA 325
   - Plavix 75 (already taking so no need to load)
   - High dose statin
   - Heparin gtt
   - Integrillin - will hold for now given increased risk of bleeding and
   limited benefit, but would initiate at time of procedure.
   - morphine for sedation
   - Caution with nitro given aortic stenosis with valve area 0.6
   - hold imdur/ranolazine
   - trend CE's to peak
   - PCI today
   # PUMP:  Failure.  Lasix gtt on hold until cath results returned.
   Await cath results.
   - check mixed venous O2 sat for cardiac output estimate
   - will hold lasix now that he is intubated until cath, likely resume
   Lasix gtt after for extubation
   - hold benicar, amlodipine, hydral, imdur
   - nitro gtt prn for hypertension.
   - echo today
   # RHYTHM: Appears sinus with LBBB, and tachycardia.
   - correct heart failure.
   - hold beta-blocker given pulmonary edema/CHF.
   # Valves: Critical AS.  Consider valvuloplasty.
   # Respiratory status: Most likely pulmonary edema [**1-25**] acute MI.  Given
   fevers to 101 and leukocytosis on presentation and inability to
   evaluate for pneumonia on chest x-ray will cover for HCAP with
   vanco/cefepime.  Narrow at 48 hours if no further fever and cardiac w/u
   reveals primary cardiac event (by far most likely).
   - Bolus lasix given, lasix gtt on hold pending cath
   - Nitro with caution for HTN or chest pain, but at goal BP now
   - CIS
   - BCx, sputum cultures
   # Renal Failure: Likely pre-renal from poor forward flow.
   - Urinalysis, urine lytes.
   - Mucomyst pre-cath
   - trend creatinine
   # Diabetes: hold metformin as going for cath.
   - HISS
   # GI: Famotidine while NPO.  On protonix at home.  Likely safe but opt
   for H2 blocker in acute setting given potential for interaction of
   plavix with PPI.
   # Gout: renally dose allopurinol.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2107-2-11**] 12:17 AM
   20 Gauge - [**2107-2-11**] 02:40 AM
   Multi Lumen - [**2107-2-11**] 03:32 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Per cath report, patient without new coronary artery disease. No
   interventions were done. At this point patient has significant acute
   systolic congestive heart failure. Will diurese today. Also covering
   for possible pneumonia given fever, white count and respiratory
   distress. Will check TTE today. Will discontinue heparin gtt since no
   evidence of ACS on cath.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1905**] [**Last Name (NamePattern1) 10840**], MD
   on:[**2107-2-11**] 11:27 ------

2107-02-12 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Positive biomarkers, CHF
   24 Hour Events:
   - FeNa: 0.16
   - on lasix drip, putting out to that and metolazone
   - [**Known lastname 11055**] - no answer yet - it is not - LIMA to diag patent, distal LAD
   but old, SVG to OM stented prev which is open, R side chronic occluded.
   No new native disease. LM stents widely patent. RHC - left groin PA
   line (type you put in neck) can be used as central line. Wedge 25, PAD
   30. CI initially 2.0. Crossed Aortic valve - Valve area 1.0. Not
   amenable to vavuloplasty. Dobutamine challenge do not think is cause.
   - upon arrival, tachycardic, tachypneic low saturations on bipap,
   checked abg, low O2 and elevated CO2 despite RR 40s, patient intubated
   - patient self extubated -- re-intubated
   - a-line placed, TLC catheter placed into IJ for increase access and to
   monitor CO via fick equation
   - grm stain gm + cocci in pairs, grm positive rods.
   heparin discontinued.
   -NG tube placed under fluoro for oral meds.
   - placed on cefepime/vanc
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Bacitracin
   Unknown;
   Hydrocortisone
   Unknown;
   Escitalopram
   Unknown;
   Neomycin
   Unknown;
   Polymyxin B
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2107-2-11**] 04:30 AM
   Cefipime - [**2107-2-12**] 03:29 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Morphine Sulfate - 5 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2107-2-11**] 05:45 PM
   Heparin Sodium (Prophylaxis) - [**2107-2-11**] 11:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-12**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 86 (72 - 90) bpm
   BP: 107/49(68) {95/45(63) - 121/61(81)} mmHg
   RR: 22 (17 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.5 kg (admission): 102.3 kg
   Height: 73 Inch
    CVP: 8 (8 - 15)mmHg
   PAP: (44 mmHg) / (21 mmHg)
   CO/CI (Fick): (6 L/min) / (2.7 L/min/m2)
   Mixed Venous O2% Sat: 57 - 61
   Total In:
                                                                  2,120 mL
                                                                    328 mL
   PO:
   TF:
   IVF:
                                                                  2,010 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  1,822 mL
                                                                  1,175 mL
   Urine:
                                                                  1,777 mL
                                                                  1,175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    298 mL
                                                                   -847 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 112 (112 - 112) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 177
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/38/144/28/1
   Ve: 13.3 L/min
   PaO2 / FiO2: 288
   Physical Examination
   General Appearance: No(t) Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   difficult to assess, ? early diastolic murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace.  Left femoral sheath and swan in place.
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   228 K/uL
   9.5 g/dL
   152 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.2 mEq/L
   61 mg/dL
   107 mEq/L
   143 mEq/L
   31
   10.7 K/uL
        [image002.jpg]
                             [**2107-2-11**]  05:36 AM
                             [**2107-2-11**]  05:46 AM
                             [**2107-2-11**]  02:40 PM
                             [**2107-2-11**]  02:54 PM
                             [**2107-2-11**]  09:25 PM
                             [**2107-2-11**]  09:26 PM
                             [**2107-2-12**]  01:45 AM
                             [**2107-2-12**]  05:00 AM
                             [**2107-2-12**]  05:14 AM
                             [**2107-2-12**]  05:17 AM
   WBC
   14.4
   9.8
   10.7
   Hct
   30.2
   29.9
   29
   28.7
   31
   Plt
   [**Telephone/Fax (3) 11087**]
   Cr
   2.4
   2.1
   2.1
   TropT
   2.78
   2.98
   TCO2
   26
   25
   26
   27
   26
   Glucose
   265
   225
   143
   152
   Other labs: PT / PTT / INR:14.4/25.5/1.2, CK / CKMB /
   Troponin-T:766/30/2.98, ALT / AST:52/230, Alk Phos / T Bili:95/0.5,
   Differential-Neuts:80.4 %, Lymph:15.0 %, Mono:4.2 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.8 g/dL, LDH:732 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Imaging: [**2-11**]: CXR
   In comparison with study of earlier in this date, the tip of the
   endotracheal tube now measures approximately 5.5 cm above the carina.
   There
   is continued cardiomegaly with pulmonary edema and bilateral pleural
   effusions.
   Microbiology: Sputum culture:
   GRAM STAIN (Final [**2107-2-11**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
   Blood cultures: ngtd
   Assessment and Plan
   83 y/o M w/ Aortic Stenosis, CHF w/ EF 45% and 3VD s/p CABGx2 and
   multiple stents p/w dyspnea and elevated troponin and probable CHF.
   .
   # CORONARIES: Reportedly NSTEMI by OSH.  ECG here concerning for
   ischemia in major epicardial vessel, ?LIMA to LAD vs. stents of left
   main or circ with intact LIMA.  Apparently echo unchanged from previous
   however.
   - ASA 325
   - Plavix 75
   - High dose statin
   - morphine for sedation
   - hold imdur/ranolazine
   # PUMP:  Failure.  Appears euvolemic by clinical exam and PA pressures.
   - check mixed venous O2 sat for cardiac output estimate
   - will hold lasix now that he is intubated until cath, likely resume
   Lasix gtt after for extubation
   - hold benicar, amlodipine, hydral, imdur
   - nitro gtt prn for hypertension.
   - echo today
   # RHYTHM: Appears sinus with LBBB with intermittent sinus tachycardia..
   - beta blockade with metoprolol.
   # Valves: Critical AS.  Not intervenable as seen yesterday on cath..
   # Respiratory status: Most likely pulmonary edema [**1-25**] acute MI.  Given
   fevers to 101 and leukocytosis on presentation and inability to
   evaluate for pneumonia on chest x-ray will cover for HCAP with
   vanco/cefepime.  Narrow at 48 hours if no further fever and cardiac w/u
   reveals primary cardiac event (by far most likely).
   - hold lasix gtt now that euvolemic.
   - CIS
   - BCx, sputum cultures
   # Renal Failure: Likely pre-renal from poor forward flow.
   - follow
   # Diabetes: hold metformin as going for cath.
   - HISS
   # GI: Famotidine while NPO.  On protonix at home.  Likely safe but opt
   for H2 blocker in acute setting given potential for interaction of
   plavix with PPI.
   # Gout: renally dose allopurinol.
   ICU Care
   Nutrition: none for now, reassess for tube feeds if still intubated.
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2107-2-11**] 12:17 AM
   20 Gauge - [**2107-2-11**] 02:40 AM
   Multi Lumen - [**2107-2-11**] 03:32 AM
   PA Catheter - [**2107-2-11**] 12:00 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: famotidine
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   CCU ATTENDING PROGRESS NOTE
   I have reviewed the progress note history and physical examination on
   [**2107-2-12**] by Dr. [**Last Name (STitle) **] [**Last Name (STitle) 6718**] above.  I was present during the
   pertinent portions of the physical examination today.   I concur with
   the diagnostic evaluation and treatment plan outlined above.
   Approximately 50% allocated time involved coordination of care.
   MEDICAL DECISION MAKING.  This 82 year old man who is s/p CABG [**2087**],
   [**2096**], [**2103**] who has known aortic stenosis (AVR = 1.0-1.2 with and
   without dobutamine) was admitted with a NSTEMI.  Cardiac
   catheterization was performed and showed 3 vessel coronary artery
   disease with patent native vessel stents, patent LIMA to the LAD, minor
   irregularities of the SVG to the OMB1, and occlusion of the SVG-PDA
   (which was old). No PCI was performed and the NSTEMI has been
   attributed to watershed infarction.  This has resulted in an
   exacerbation of his acute systolic and diastolic left ventricular
   dysfunction.  We have diuresed approximately 1L and his chest X ray has
   improved over the past 24 hours.  He still has intermittent episodes of
   atrial fibrillation with hypotenstion and elevation of his pulmonary
   artery pressures.    We will initiate beta blocker and [**Last Name (un) 284**] for this
   congestive heart failure.
   ASSESSMENT:  3 Vessel Coronary Artery Disease
                                Severe aortic stenosis ([**Location (un) **] = 1.0 cm2)
                               Patent LIMA to LAD, Patent SVG to OMB1
                               Acute systolic and diastolic dysfunction
   PLAN:                      Ginger diuresis to 500 cc negative today
                                 Implement beta blockers and [**Last Name (un) 284**] and
   continue lasix
                                 Reduce sedation and attempt weaning of
   ventilator
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**], MD  [**Telephone/Fax (1) 5760**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2107-2-12**] 15:34 ------

2107-02-13 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2107-2-12**] 11:30 PM
 EKG - At [**2107-2-13**] 05:41 AM
   pt agitated hr ^ 110-120
   -Patient in Afib this AM after attempt to wean ventilator support.  PAP
   incresed while in Afib.  Decision to continue lasix/metolazone and to
   delay extubation.  Patient restarted on beta-blocker.
   -Discussed code status with HCP, son [**Name (NI) 1495**] at 2:30pm on [**2107-2-12**].
   DNR/DNI. Do not reintubate, even after self-extubation. No shocks
   -Of note OSH ECHO [**2107-2-2**] : EF of 20-25%, inferior akinesis w/global
   hypokinesis.  Aortic stenosis.
   - started metoprolol 25mg, decreased dose to 12.5mg TID b/c of blood
   pressures ; will need to start low dose ACE when BP can tolerate
   - DCed lasix gtt and metolazone in afternoon when -1.5L (goal was
   -500cc)
   - MVO2sat 52% so CO 4, CI 1.7, SVR 1235
   - In evening, pt's Swan came partly out when pt being turned, so it was
   removed all the way; DCed entire fem line so that he could sit up
   whenever extubated
   - antibiotics DCed b/c no culture data
   - spiked temp 101.8 rectally 6am and in Afib w SBPs low 100s;
   pan-cultured
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Bacitracin
   Unknown;
   Hydrocortisone
   Unknown;
   Escitalopram
   Unknown;
   Neomycin
   Unknown;
   Polymyxin B
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2107-2-11**] 04:30 AM
   Cefipime - [**2107-2-12**] 03:29 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-2-12**] 10:06 PM
   Heparin Sodium (Prophylaxis) - [**2107-2-12**] 11:02 PM
   Morphine Sulfate - [**2107-2-13**] 04:46 AM
   Midazolam (Versed) - [**2107-2-13**] 05:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-13**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38
C (100.4
   HR: 94 (75 - 110) bpm
   BP: 119/56(77) {90/45(62) - 131/70(91)} mmHg
   RR: 18 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.9 kg (admission): 102.3 kg
   Height: 73 Inch
    CVP: 6 (4 - 25)mmHg
   PAP: (14 mmHg) / (8 mmHg)
   CO/CI (Fick): (4.3 L/min) / (1.9 L/min/m2)
   Mixed Venous O2% Sat: 50 - 56
   Total In:
                                                                  1,190 mL
                                                                    195 mL
   PO:
   TF:
                                                                    103 mL
                                                                    123 mL
   IVF:
                                                                    607 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  3,225 mL
                                                                    450 mL
   Urine:
                                                                  3,225 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,035 mL
                                                                   -255 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 608 (170 - 608) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 32
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   Compliance: 43.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/40/140//1
   Ve: 14 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance:  elderly, intubated
   Eyes / Conjunctiva: PERRL,
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   difficult to assess, ? early diastolic murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: clear anterior and lateral chest bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace.  Left groin site clean, dry, intact
   Skin:  Not assessed
   Neurologic: Follows simple commands,
   Labs / Radiology
   194 K/uL
   203 mg/dL
   1.9 mg/dL
   24mEq/L
   3.9 mEq/L
   62 mg/dL
   108 mEq/L
   146 mEq/L
   27
   12 K/uL
        [image002.jpg]
                             [**2107-2-12**]  05:17 AM
                             [**2107-2-12**]  01:38 PM
                             [**2107-2-12**]  01:58 PM
                             [**2107-2-12**]  02:00 PM
                             [**2107-2-12**]  02:01 PM
                             [**2107-2-12**]  02:52 PM
                             [**2107-2-12**]  06:52 PM
                             [**2107-2-12**]  06:55 PM
                             [**2107-2-12**]  10:58 PM
                             [**2107-2-13**]  06:00 AM
   Hct
   31
   35
   35
   29
   29
   Cr
   2.1
   TCO2
   27
   26
   25
   27
   Other labs: PT / PTT / INR:14.4/25.5/1.2, CK / CKMB /
   Troponin-T:766/30/2.98, ALT / AST:52/230, Alk Phos / T Bili:95/0.5,
   Differential-Neuts:80.4 %, Lymph:15.0 %, Mono:4.2 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.8 g/dL, LDH:732 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   83 y/o M w/ Aortic Stenosis, CHF w/ EF 45% and 3VD s/p CABGx2 and
   multiple stents p/w dyspnea and elevated troponin and probable CHF.
   .
   # Respiratory Failure:
   Most likely pulmonary edema [**1-25**] acute MI.  Given fevers to 101 and
   leukocytosis on presentation will cover for HCAP with vanco/cefepime
   though no obvious consolidation on Xray. Antibiotics were DCed
   yesterday, but febrile again this AM.Patient with thick secretions this
   Am, appeared to have mucus plugged this AM.
   - restart vanc/cefepime
   - hold lasix gtt now that euvolemic in setting of Aortic Stenosis and
   hypotension
   - CIS
   - BCx, sputum cultures
   - re-evaluate for possibility of extubation in the afternoon
   .
   # Acute on Chronic Systolic Heart Failure.
   PA Cath DCed yesterday but were elevated w elevated PCWP yesterday.
   MvO2s low yesterday afternoon, but SVR high, likely cardiogenic shock.
   - appears euvolemic
   - hold benicar, amlodipine, hydral, imdur
   # Paroxysmal Afib
   Had two episodes Afib in last 24hours, wedge and PA pressures increased
   temporarily yesterday morning during episode, no PA catheter in anymore
   - continue low dose metoprolol , increased dose to 25mg TID
   # Demand Ischemia.
   Troponin leak at outside hospital.  ECG here concerning for ischemia in
   major epicardial vessel, ?LIMA to LAD vs. stents of left main or circ
   with intact LIMA.  Apparently echo unchanged from previous however.
   - ASA 325, Plavix 75, High dose statin
   - morphine for sedation
   - hold imdur/ranolazine
   # Critical Aortic Stenosis.
   Not intervenable as seen on Cath.  Valve area 1.2.
   - manage fluid status delicately
   # Acute on Chronic Renal Failure:
   Likely pre-renal from poor forward flow.
   - follow
   # Diabetes: hold metformin as going for cath.
   - HISS
   # GI: Famotidine while NPO.  On protonix at home.  Likely safe but opt
   for H2 blocker in acute setting given potential for interaction of
   plavix with PPI.
   # Gout: renally dose allopurinol.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-2-12**] 05:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-2-11**] 12:17 AM
   Multi Lumen - [**2107-2-11**] 03:32 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On [**2107-2-13**], I examined and was physically present with the resident /
   fellow for the key portions of the services provided. I agree with the
   above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 50 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 862**] [**Last Name (NamePattern1) 3213**], MD
   on:[**2107-2-14**] 08:29 ------

2107-02-14 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: CHF, positive biomarkers
   24 Hour Events:
   - did not extubate - agitated, RR to 40, good tidal volumes - want to
   make sure he does well
   - gave 40mg IV lasix
   - metoprolol tartrate increased to 37.5mg TID
   - gave increased sedation due to patient agitation, will wean overnight
   before morning
   - temp 101.6 degrees F - ua neg today, urine cx pending, blood cx
   pending, sputum cultures pending, gave tylenol, will draw blood cx and
   sputum cx tomorrow after 24 hrs, CXR pending
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Bacitracin
   Unknown;
   Hydrocortisone
   Unknown;
   Escitalopram
   Unknown;
   Neomycin
   Unknown;
   Polymyxin B
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2107-2-13**] 07:57 AM
   Vancomycin - [**2107-2-13**] 11:50 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Morphine Sulfate - 1 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2107-2-13**] 05:00 PM
   Furosemide (Lasix) - [**2107-2-13**] 05:10 PM
   Famotidine (Pepcid) - [**2107-2-13**] 08:58 PM
   Midazolam (Versed) - [**2107-2-13**] 11:22 PM
   Heparin Sodium (Prophylaxis) - [**2107-2-13**] 11:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-14**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.7
C (98.1
   HR: 76 (67 - 108) bpm
   BP: 80/59(71) {80/47(64) - 140/85(271)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.9 kg (admission): 102.3 kg
   Height: 73 Inch
    CVP: 9 (4 - 17)mmHg
   Total In:
                                                                  1,723 mL
                                                                    214 mL
   PO:
   TF:
                                                                    161 mL
                                                                    104 mL
   IVF:
                                                                    652 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    340 mL
   Urine:
                                                                  1,855 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -132 mL
                                                                   -126 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 633 (633 - 633) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.39/44/157/26/1
   Ve: 8.2 L/min
   PaO2 / FiO2: 314
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   anteriorly and laterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   181 K/uL
   7.2 g/dL
   169 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   65 mg/dL
   112 mEq/L
   149 mEq/L
   28.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2107-2-12**]  10:58 PM
                             [**2107-2-13**]  05:49 AM
                             [**2107-2-13**]  06:00 AM
                             [**2107-2-13**]  09:15 AM
                             [**2107-2-13**]  11:21 AM
                             [**2107-2-13**]  02:19 PM
                             [**2107-2-13**]  06:17 PM
                             [**2107-2-14**]  05:13 AM
                             [**2107-2-14**]  05:14 AM
                             [**2107-2-14**]  05:32 AM
   WBC
   11.6
   8.5
   Hct
   27.0
   22.3
   28.9
   Plt
   194
   181
   Cr
   1.9
   1.6
   TCO2
   25
   27
   25
   24
   27
   27
   28
   Glucose
   203
   169
   Other labs: PT / PTT / INR:13.4/28.9/1.1, CK / CKMB /
   Troponin-T:766/30/2.98, ALT / AST:52/230, Alk Phos / T Bili:95/0.5,
   Differential-Neuts:80.4 %, Lymph:15.0 %, Mono:4.2 %, Eos:0.1 %, Lactic
   Acid:1.6 mmol/L, Albumin:3.8 g/dL, LDH:732 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Imaging: Ccath
   1. Selective coronary angiography revealed three vessel CAD.  The LMCA
   had widely patent stents.  The LAD had an ostial occlusion, the first
   diagonal filled by the patent LIMA, with retrograde filling to the the
   remainder of the LAD with moderate diffuse disease (unchanged from last
   catheterization in 8/[**2105**]).  THe LCX had patent proximal stents,
   occluded OMs (unchanged), the first OM filled by the patent SVG.  The
   RCA was not injected as it was known to be occluded, and seen to fill
   via collaterals from LCX and LAD.
   2. Resting hemodynamics as well as dobutamine trial hemodynamics were
   performed for full evaluation of aortic stenosis in setting of low
   cardiac output at baseline.  The resting hemodynamics demonstrated
   elevated right filling pressures (RA 17/16), pulmonary hypertension (PA
   42/36/35), elevated left sided filling pressures (PCWP 34), and low
   cardiac index (1.96 l/min/m2).  At baseline the aortic valve area was
   calculated at 1.0 cm2 using a pressure gradient of 21 mm Hg.  After
   administering dobutamine, the hemodynamics improved with increased
   arterial pressure from radial line (117/53 up from baseline 102/61),
   improved cardiac index (2.67 l/min/m2).  The filling pressures were
   unchanged from baseline.
   3. The aortic valve was calculated to be 1.0 cm2 at rest, and given low
   cardiac output dobutamine challenge was performed for better evaluation
   of severity of aortic stenosis.  After dobutamine the aortic valve area
   calculation remained nearly unchanged at 1.1 cm2.
   4. Arterial conduit angiography revealed patent LIMA to LAD without
   subclavian to aortic pressure gradient.
   5. Venous angiography revealed SVG at descending aorta, marked by the
   lower of two graft ring markers, which was patent to obtuse marginal
   artery.
   FINAL DIAGNOSIS:
   1. Three vessel coronary artery disease, with no change in status as
   compared to [**7-/2106**] catheterization.  Patent LIMA and SVG-OM.
   2. Moderate aortic stenosis.
   3. Severe diastolic ventricular dysfunction.
   Microbiology: Blood, sputum, urine cultures: ngtd
   Assessment and Plan
   83 y/o M w/ Aortic Stenosis, CHF w/ EF 45% and 3VD s/p CABGx2 and
   multiple stents p/w dyspnea and elevated troponin and probable CHF.
   .
   # Respiratory Failure:
   Most likely pulmonary edema [**1-25**] acute MI.  Given fevers to 101 and
   leukocytosis on presentation will cover for HCAP with vanco/cefepime
   though no obvious consolidation on Xray. Antibiotics were DCed
   yesterday, but febrile again this AM.Patient with thick secretions this
   Am, appeared to have mucus plugged this AM.
   - restart vanc/cefepime
   - hold lasix gtt now that euvolemic in setting of Aortic Stenosis and
   hypotension
   - CIS
   - BCx, sputum cultures
   - re-evaluate for possibility of extubation in the afternoon
   .
   # Acute on Chronic Systolic Heart Failure.
   PA Cath DCed yesterday but were elevated w elevated PCWP yesterday.
   MvO2s low yesterday afternoon, but SVR high, likely cardiogenic shock.
   - appears euvolemic
   - hold benicar, amlodipine, hydral, imdur
   # Paroxysmal Afib
   Had two episodes Afib in last 24hours, wedge and PA pressures increased
   temporarily yesterday morning during episode, no PA catheter in anymore
   - continue low dose metoprolol , increased dose to 25mg TID
   # Demand Ischemia.
   Troponin leak at outside hospital.  ECG here concerning for ischemia in
   major epicardial vessel, ?LIMA to LAD vs. stents of left main or circ
   with intact LIMA.  Apparently echo unchanged from previous however.
   - ASA 325, Plavix 75, High dose statin
   - morphine for sedation
   - hold imdur/ranolazine
   # Critical Aortic Stenosis.
   Not intervenable as seen on Cath.  Valve area 1.2.
   - manage fluid status delicately
   # Acute on Chronic Renal Failure:
   Likely pre-renal from poor forward flow.
   - follow
   # Diabetes: hold metformin as going for cath.
   - HISS
   # GI: Famotidine while NPO.  On protonix at home.  Likely safe but opt
   for H2 blocker in acute setting given potential for interaction of
   plavix with PPI.
   # Gout: renally dose allopurinol.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-2-11**] 12:17 AM
   Multi Lumen - [**2107-2-11**] 03:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 45 minutes of critical care time.
   Additional comments:
   respiratory failure, shock

2107-02-15 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2107-2-14**] 09:50 AM
 TRANSTHORACIC ECHO - At [**2107-2-14**] 10:00 AM
 INVASIVE VENTILATION - STOP [**2107-2-14**] 03:17 PM
   - Patient extubated successfully at 3pm
   - Family re-iterated wish to be DNR/DNI now that he is successfully
   extubated
   - patient at 1am had acute shortness of breath, CXR showed pulmonary
   edema - likely flashing, started on ntg drip, given morphine, 160mg IV
   lasix then started on lasix gtt.
   - getting free water flushes w tube feeds
   - Afebrile overnight
   - Echo showed LVEF 15-20%, globally decreased function w lateral wall
   contractility slightly more than other wall
   - frequent PACs and PVCs on telemetery but appears to be in Sinus
   rhythm
   - still coughing up dark tan sputum but needs it to be suctioned out of
   mouth once coughed up
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Bacitracin
   Unknown;
   Hydrocortisone
   Unknown;
   Escitalopram
   Unknown;
   Neomycin
   Unknown;
   Polymyxin B
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2107-2-14**] 08:15 AM
   Vancomycin - [**2107-2-14**] 10:34 AM
   Infusions:
   Nitroglycerin - 0.6 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-2-15**] 12:00 AM
   Metoprolol - [**2107-2-15**] 01:40 AM
   Morphine Sulfate - [**2107-2-15**] 06:00 AM
   Furosemide (Lasix) - [**2107-2-15**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-15**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 93 (68 - 129) bpm
   BP: 106/90(96) {78/54(8) - 155/97(109)} mmHg
   RR: 21 (9 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.9 kg (admission): 102.3 kg
   Height: 73 Inch
    CVP: 11 (2 - 14)mmHg
   Total In:
                                                                  1,043 mL
                                                                    284 mL
   PO:
   TF:
                                                                    227 mL
                                                                     69 mL
   IVF:
                                                                    626 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    565 mL
   Urine:
                                                                  1,275 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -232 mL
                                                                   -281 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 0 (0 - 766) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 14
   PIP: 0 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.45/33/149/24/0
   Ve: 0 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Well nourished, mild respiratory distress, wearing
   face tent and nasal canula
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   anteriorly and laterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   227 K/uL
   10.1 g/dL
   208 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.1 mEq/L
   73 mg/dL
   112 mEq/L
   150 mEq/L
   30.2 %
   15.0 K/uL
        [image002.jpg]
                             [**2107-2-14**]  05:32 AM
                             [**2107-2-14**]  01:04 PM
                             [**2107-2-14**]  03:14 PM
                             [**2107-2-14**]  04:57 PM
                             [**2107-2-14**]  11:03 PM
                             [**2107-2-15**]  12:00 AM
                             [**2107-2-15**]  01:28 AM
                             [**2107-2-15**]  04:56 AM
                             [**2107-2-15**]  05:09 AM
                             [**2107-2-15**]  06:29 AM
   WBC
   15.0
   Hct
   28.9
   30.2
   Plt
   227
   Cr
   1.5
   1.7
   TropT
   2.31
   2.42
   TCO2
   25
   24
   27
   25
   24
   24
   Glucose
   149
   228
   208
   Other labs: PT / PTT / INR:13.4/28.9/1.1, CK / CKMB /
   Troponin-T:163/5/2.42, ALT / AST:41/49, Alk Phos / T Bili:74/0.5,
   Amylase / Lipase:/44, Differential-Neuts:90.5 %, Lymph:5.5 %, Mono:3.6
   %, Eos:0.2 %, Lactic Acid:2.7 mmol/L, Albumin:3.8 g/dL, LDH:367 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   83 y/o M w/ Aortic Stenosis, CHF w/ EF 45% and 3VD s/p CABGx2 and
   multiple stents p/w dyspnea and elevated troponin and probable CHF.
   .
   # Respiratory Failure:
   Extubated successfully but appears to have flashed into pulmonary edema
   overnight.  Given fevers to 101 and leukocytosis on presentation,
   started HCAP coverage with vanco/cefepime though no obvious
   consolidation on Xray. Antibiotics were DCed briefly, but pt became
   febrile by next AM, so antibiotics were restarted.  Patient with thick
   secretions still, appeared to have mucus plugged previously.  WBC
   increased today.  Was started on nitro gtt and lasix gtt early morning.
   - continue vanc/cefepime
   - continue lasix gtt in setting of pulmonary edema
   - wean off nitro drip to give him increased BP, more forward flow to
   kidneys in order to put out more urine
   - CIS, f/u BCx, sputum cultures
   - switch albuterol back to ipratropium nebs now that patient is
   extubated ; avoiding beta agonists b/c pt can become unstable w afib w
   RVR
   # Acute on Chronic Systolic Heart Failure.
   PA Cath DCed noted to have had elevated PCWP.  MvO2s low on
   presenation, but SVR high, likely cardiogenic shock.  Appears to have
   flashed into pulmonary edema last night.
   - continue to diurese w lasix gtt
   - hold benicar, amlodipine, hydral, imdur
   # Hypernatremia.
   2L free water deficit.  Got 500cc via NG tube + 200 D5W bolus.
   - getting free water flushes, can increase free water flushes
   accordingly
   # Paroxysmal Afib
   Had two episodes Afib in last 24hours, wedge and PA pressures increased
   temporarily during episode of Afib noted the day after admission; no PA
   catheter in anymore.  Had been taking metoprolol 37.5mg TID
   - decc metoprolol back to 25mg TID to help BPs to help diurese
   # Leukocytosis:
   Sudden increase in WBC, likely stress reaction.  On antibiotics
   currently for presumed pneumonia.
   # Demand Ischemia.
   Troponin leak at outside hospital.  ECG here concerning for ischemia in
   major epicardial vessel, ?LIMA to LAD vs. stents of LMCA or LCx with
   intact LIMA.  Apparently echo unchanged from previous however.
   - ASA 325, Plavix 75, High dose statin
   - morphine for sedation
   - hold imdur/ranolazine
   # Critical Aortic Stenosis.
   Not intervenable as seen on Cath.  Valve area 1.2, not changed with
   dobutamine.
   - manage fluid status delicately
   # Acute on Chronic Renal Failure:
   Stable, improved from admission.  Likely pre-renal from poor forward
   flow.
   - follow
   # Diabetes: hold metformin as going for cath.
   - HISS
   # GI: Famotidine while NPO.  On protonix at home.  Likely safe but opt
   for H2 blocker in acute setting given potential for interaction of
   plavix with PPI.
   # Gout: renally dose allopurinol.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-2-11**] 12:17 AM
   Multi Lumen - [**2107-2-11**] 03:32 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2107-02-16 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Do not intubate, comfort priority ; kept lasix gtt for comfort, DCed
   all other unnecessary medications
   -Vanc troph 15.1
   - gave metolazone, lasix gtt
   - metoprolol decreased to 25mg TID
   - meds DCed (except morphine and lasix) after dr. [**Last Name (STitle) **] had family
   discussion
   - morphine drip started for comfort 17:15, per family wishes and bc pt
   respirations 40/min, uncomfortable appearing
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Bacitracin
   Unknown;
   Hydrocortisone
   Unknown;
   Escitalopram
   Unknown;
   Neomycin
   Unknown;
   Polymyxin B
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2107-2-15**] 10:30 AM
   Cefipime - [**2107-2-15**] 10:38 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2107-2-15**] 05:05 PM
   Lorazepam (Ativan) - [**2107-2-15**] 05:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-16**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 107 (80 - 129) bpm
   BP: 72/49(53) {72/47(53) - 110/71(80)} mmHg
   RR: 19 (9 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 98.9 kg (admission): 102.3 kg
   Height: 73 Inch
    CVP: 284 (6 - 321)mmHg
   Total In:
                                                                  1,797 mL
                                                                    128 mL
   PO:
                                                                    300 mL
   TF:
                                                                    377 mL
   IVF:
                                                                    770 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                      0 mL
   Urine:
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    307 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General: Patient appears comfortable. Remainder of exam deferred due to
   CMO.
   Labs / Radiology
   227 K/uL
   10.1 g/dL
   208 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.1 mEq/L
   73 mg/dL
   112 mEq/L
   150 mEq/L
   30.2 %
   15.0 K/uL
        [image002.jpg]
                             [**2107-2-14**]  05:32 AM
                             [**2107-2-14**]  01:04 PM
                             [**2107-2-14**]  03:14 PM
                             [**2107-2-14**]  04:57 PM
                             [**2107-2-14**]  11:03 PM
                             [**2107-2-15**]  12:00 AM
                             [**2107-2-15**]  01:28 AM
                             [**2107-2-15**]  04:56 AM
                             [**2107-2-15**]  05:09 AM
                             [**2107-2-15**]  06:29 AM
   WBC
   15.0
   Hct
   28.9
   30.2
   Plt
   227
   Cr
   1.5
   1.7
   TropT
   2.31
   2.42
   TCO2
   25
   24
   27
   25
   24
   24
   Glucose
   149
   228
   208
   Other labs: PT / PTT / INR:13.4/28.9/1.1, CK / CKMB /
   Troponin-T:163/5/2.42, ALT / AST:41/49, Alk Phos / T Bili:74/0.5,
   Amylase / Lipase:/44, Differential-Neuts:90.5 %, Lymph:5.5 %, Mono:3.6
   %, Eos:0.2 %, Lactic Acid:2.7 mmol/L, Albumin:3.8 g/dL, LDH:367 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
   -          continue with morphine drip
   -          ativan as needed for anxiety
   -          scopolamine patch for secretions
   -          discontinue nasal cannula, change to shovel cold steam mass
   for comfort and O2 delivery as needed for dyspnea.
   ICU Care
   Nutrition: no restriction diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2107-2-11**] 03:32 AM
   Prophylaxis:
   DVT: none
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: CCU for now, re-evaluate tomorrow for private floor room.